US08242288B2
Step 1: Preparation of (R)-3-[tetrahydropyran-2-yl-oxy]-tetradecanenitrile
2.16 g of (R)-3-hydroxy-tetradecanenitrile, 1.93 ml of dihydropyran and 20 ml of tetrahydrofuran were placed in a reactor and stirred, and 266 mg of pyridinium p-toluenesulfonate was added thereto, heated to 50° C., and stirred for about 2 hours. The mixture was cooled to room temperature, 30 ml of water and 30 ml of hexane were added thereto, and stirred vigorously for 5 minutes. The resulting mixture was allowed to undergo phase separation and the aqueous layer was removed. The organic layer was dried over anhydrous magnesium sulfate and concentrated under a reduced pressure, to give 2.97 g of the title compound (yield: 100%) as an oil.

reactant | (R)-3-hydroxy-tetradecanenitrile | 2.16 g | O[C@@H](CC#N)CCCCCCCCCCC | C14H27NO
reactant | dihydropyran | 1.93 ml | O1CCCC=C1 | C5H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | pyridinium p-toluenesulfonate | 266 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | water | 30 ml | O | H2O
product | (R)-3-[tetrahydropyran-2-yl-oxy]-tetradecanenitrile | 2.97 g, yield: 100% | O1C(CCCC1)O[C@@H](CC#N)CCCCCCCCCCC | C19H35NO2
